US04717416
3,7-Dichloro-8-ethoxyacryloylquinoline
36 ml of a 15% strength solution of sodium methylate in methanol were added dropwise, at 20° C., to a suspension of 22.6 g of 3,7-dichloro-8-formylquinoline and 38.4 g of ethoxycarbonylmethyl-triphenyl-phosphonium chloide in 200 ml of ethanol. The mixture was stirred for 3 hours, after which the precipitate was filtered off under suction, washed with water and dried.

reactant | sodium methylate | C[O-].[Na+]
reactant | 3,7-dichloro-8-formylquinoline | 22.6 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C=O | C10H5Cl2NO
reactant | ethoxycarbonylmethyl-triphenyl-phosphonium | 38.4 g | C(C)OC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | CO | CH4O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3,7-Dichloro-8-ethoxyacryloylquinoline | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C(C=COCC)=O | C14H11Cl2NO2
